US05043454
Methyl 1-(2,4-dibromophenyl)-2-methylimidazole-4-carboxylate
14.1 g of 30% strength sodium methylate solution was added to 10.9 g (0.078 mol) of methyl 2-methylimidazole-4-carboxylate in 100 ml of dimethylformamide; the methanol which formed was removed completely. 38.1 g (0.15 mol) of 1-fluoro-2,4-dibromobenzene was added to the dimethylformamide solution remaining, and the mixture was refluxed for 2 hours. Water was then added, extraction carried out with ethyl acetatem and the ethyl acetate phase was washed with water. After removal of the solvent from the organic phase, there was obtained a residue which crystallized on trituration with diisopropyl ether.

reactant | sodium methylate | C[O-].[Na+]
reactant | methyl 2-methylimidazole-4-carboxylate | 0.078 mol, 10.9 g | CC=1NC=C(N1)C(=O)OC | C6H8N2O2
reactant | methanol | CO | CH4O
reactant | 1-fluoro-2,4-dibromobenzene | 0.15 mol, 38.1 g | FC1=C(C=C(C=C1)Br)Br | C6H3Br2F
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Methyl 1-(2,4-dibromophenyl)-2-methylimidazole-4-carboxylate | BrC1=C(C=CC(=C1)Br)N1C(=NC(=C1)C(=O)OC)C | C12H10Br2N2O2
